US04623742
2-[2-(bis-(2-chloroethyl)-amino)-2-oxo-tetrahydro-2H-1,3,2-oxazaphosphorin-4-yl-thio]-ethanesulphonic acid cyclohexylammonium salt
2.9 g (10 mmol) of 2-(bis-(2-chloroethyl)-amino)-4-methoxy-tetrahydro-2H-1,3,2-oxazaphosphorin-2-oxide and 2.4 g (10 mmol) of cyclohexylammonium-2-mercaptoethanesulphonate were dissolved with some trichloroacetic acid in 10 ml of dimethylformamide and were stored at -25° C. for 20 hours. After leaving the mixture to stand for another three hours at 0° C., it was mixed with ether until clouding commenced, triturated, the crystallised material was filtered with suction after standing for 20 hours at 0° C., and was washed and dried.

reactant | 2-(bis-(2-chloroethyl)-amino)-4-methoxy-tetrahydro-2H-1,3,2-oxazaphosphorin-2-oxide | 10 mmol, 2.9 g | ClCCN(P1(OCCC(N1)OC)=O)CCCl | C8H17Cl2N2O3P
reactant | cyclohexylammonium 2-mercaptoethanesulphonate | 10 mmol, 2.4 g | C1(CCCCC1)[NH3+].SCCS(=O)(=O)[O-]
reactant | trichloroacetic acid | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
reactant | ether | CCOCC | C4H10O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-[2-(bis-(2-chloroethyl)-amino)-2-oxo-tetrahydro-2H-1,3,2-oxazaphosphorin-4-yl-thio]-ethanesulphonic acid cyclohexylammonium salt | C1(CCCCC1)[NH3+].ClCCN(P1(OCCC(N1)SCCS(=O)(=O)[O-])=O)CCCl | InChI=1S/C9H19Cl2N2O5PS2.C6H13N/c10-2-4-13(5-3-11)19(14)12-9(1-6-18-19)20-7-8-21(15,16)17;7-6-4-2-1-3-5-6/h9H,1-8H2,(H,12,14)(H,15,16,17);6H,1-5,7H2
